// =============================================================================
// FILE: 01_LNA.scs
// TITLE: 2.4 GHz Cascode LNA — Inductive Source Degeneration
// PROCESS: Generic 180nm CMOS (substitute your PDK model path below)
// AUTHOR: RF RX Front-End Project
//
// TARGET SPECS:
//   S21  > 15 dB
//   S11  < -10 dB at 2.4 GHz
//   NF   < 2.5 dB
//   IIP3 > -5 dBm
//   K    > 1 (unconditionally stable)
//   PDC  < 10 mW at VDD=1.8V
//
// TOPOLOGY:
//   VDD
//    |
//   Ld (4.7 nH, drain load resonator)
//    |
//   M2 (cascode NMOS — improves isolation & reverse gain)
//    |
//   M1 (main transconductor NMOS)
//    |
//   Ls (0.7 nH, sets Re[Zin]=50Ω via ωT·Ls)
//    |
//   GND
//
//   Input: Lg (12 nH) + Cgs(M1) + Ls forms series resonance at 2.4 GHz
// =============================================================================

// ---- Model include (REPLACE with your actual PDK path) -----
// include "/opt/pdk/tsmc180nm/models/spectre/tt.scs" section=tt
// Example for a generic BSIM3v3 model:
// include "~/cadence/models/bsim3v3.scs"
// ----------------------------------------------------------

// ============================================================
// GLOBAL PARAMETERS — tune these for your process corner
// ============================================================
parameters
+ VDD    = 1.8        // Supply voltage (V)
+ Vbias1 = 0.72       // M1 gate bias — sets ID via current mirror or resistive divider
+ Vbias2 = 1.2        // M2 (cascode) gate bias
+ W1     = 200u       // M1 width (40 fingers × 5μm — multi-finger for low gate resistance)
+ W2     = 200u       // M2 width (match M1)
+ L_mos  = 180n       // Channel length (use minimum for highest fT)
+ NF     = 40         // Number of fingers
+ Ls_val = 0.7n       // Source degeneration inductor (bond wire or on-chip spiral)
+ Lg_val = 12n        // Gate inductor (off-chip or bond wire — tune for S11 minimum)
+ Ld_val = 4.7n       // Drain load inductor (resonates with Cds+Cload at 2.4 GHz)
+ Qls    = 15         // Q of Ls (bond wire Q ≈ 15-25)
+ Qlg    = 8          // Q of Lg (off-chip Q ≈ 8-15, on-chip Q ≈ 5-8)
+ Qld    = 7          // Q of Ld (on-chip spiral)
+ Cpad   = 100f       // Input pad parasitic capacitance (estimate from layout)
+ Cbp    = 10p        // Bypass capacitor value

// ============================================================
// SUBCIRCUIT DEFINITION
// Ports: RF_in  — RF input (50Ω referenced)
//        IF_out — LNA output → connects to mixer RF port
//        VDD    — Power supply
//        GND    — Ground
// ============================================================
subckt LNA (RF_in IF_out VDD GND)

  // ---- Input pad parasitic ----
  Cpad  (RF_in GND)         capacitor   c=Cpad

  // ---- Gate matching inductor (off-chip, bond wire or PCB trace) ----
  Lg    (RF_in  net_gate1)  inductor    l=Lg_val q=Qlg

  // ---- Main transconductor (M1) ----
  // nf=NF sets multi-finger layout; adjust w= to total width
  M1    (net_d1  net_gate1  net_Ls  GND)  nmos  w=W1  l=L_mos  nf=NF

  // ---- Source degeneration inductor ----
  Ls    (net_Ls  GND)       inductor    l=Ls_val  q=Qls

  // ---- Cascode device (M2) ----
  M2    (IF_out  net_bias2  net_d1  GND)  nmos  w=W2  l=L_mos  nf=NF

  // ---- Drain load inductor ----
  Ld    (VDD    IF_out)     inductor    l=Ld_val  q=Qld

  // ---- Bias network (resistive divider) ----
  // M1 gate bias
  Rbias1_top  (VDD       net_bias1_mid)  resistor  r=20k
  Rbias1_bot  (net_bias1_mid  GND)       resistor  r=15k
  // Connect gate bias through large resistor (RF choke)
  Rbias1_chk  (net_bias1_mid  net_gate1) resistor  r=5k
  Cbp_g1      (net_gate1  GND)           capacitor c=Cbp  // AC bypass

  // M2 cascode bias
  Rbias2_top  (VDD       net_bias2)      resistor  r=15k
  Rbias2_bot  (net_bias2  GND)           resistor  r=10k
  Cbp_g2      (net_bias2  GND)           capacitor c=Cbp

  // VDD bypass (keep RF off supply rail)
  Cbp_vdd     (VDD  GND)                 capacitor c=Cbp

ends LNA

// ============================================================
// TEST BENCH — Instantiate LNA in simulation environment
// ============================================================

// Power supply
Vsupply (VDD GND) vsource type=dc dc=VDD

// RF input port (50Ω system impedance)
// For S-parameter sim: use port element
Port1 (RF_in GND) port r=50 num=1

// Output port (load for S-param / input to mixer)
Port2 (IF_out GND) port r=50 num=2

// Instantiate LNA
XLNA (RF_in IF_out VDD GND) LNA

// ============================================================
// SIMULATION 1: DC Operating Point
// Run this first to verify bias before any RF simulation
// Key checks:
//   VGS_M1 ≈ 0.65-0.75V (ensure in saturation)
//   VDS_M1 > VGS_M1 - Vth (saturation: VDS > Vov ≈ 0.2-0.3V)
//   ID_M1 ≈ 4-6 mA (power budget check)
//   VGS_M2 ≈ 1.2V, VDS_M2 > VGS_M2 - Vth
// ============================================================
DC_OP dc

// ============================================================
// SIMULATION 2: S-Parameters (1 GHz to 6 GHz)
// Extract: S21 (gain), S11 (input match), S12 (isolation), K (stability)
// Target at 2.4 GHz:
//   S21 > 15 dB
//   S11 < -10 dB
//   S12 < -25 dB
//   K   > 1
// ============================================================
Sparam sp start=1G stop=6G step=10M ports=[Port1 Port2]

// ============================================================
// SIMULATION 3: Noise Figure vs Frequency
// Reports noise figure (NF) at each frequency
// At 2.4 GHz: NF < 2.5 dB
// ============================================================
Noise noise start=1G stop=6G step=10M iprobe=Port1 oprobe=Port2 \
  donoise=yes

// ============================================================
// SIMULATION 4: IIP3 via Two-Tone PSS + PAC
// Two tones at f1=2.400GHz, f2=2.401GHz (Δf=1MHz)
// IM3 products at 2f1-f2=2.399GHz, 2f2-f1=2.402GHz
// IIP3 = Pin + (Pout_fundamental - Pout_IM3) / 2
//
// PROCEDURE IN VIRTUOSO:
//   1. Set up PSS with fund=1MHz (beat frequency), tstab=200n
//   2. Add two harmonic sources at 2.4G and 2.401G
//   3. Run PAC for IM3 extraction
//   4. Use Calculator: IIP3 from fundamental and IM3 curves
// ============================================================

// Two-tone source (uncomment for IIP3 sim — disable Port1 first)
// Vrf_tone1  (RF_in_t1  GND)  vsource type=sine freq=2.4G amp=-30dbm
// Vrf_tone2  (RF_in_t2  GND)  vsource type=sine freq=2.401G amp=-30dbm
// Vrf_sum    (RF_in  GND)     vsource ... (use multi-tone PSS setup in GUI)

// PSS setup (set in Virtuoso ADE — not netlist syntax):
// PSS: fund = 1MHz, num harmonics = 10, tstab = 200n, maxstep = 10p
// PAC: freq sweep 0 to 3G, input port = RF source

// ============================================================
// SIMULATION 5: P1dB Compression (PSS sweep)
// Sweep input power from -40 dBm to 0 dBm
// P1dB is where gain drops 1 dB from small-signal value
// Expected P1dB ≈ -15 to -10 dBm for this topology
// ============================================================
// (Set in ADE as PSS sweep of source amplitude)

// ============================================================
// SIMULATION CONTROL — Save all node voltages
// ============================================================
save VDD RF_in IF_out net_gate1 net_d1 net_Ls net_bias2

